* Schematics Netlist *


CC1 _N_3 _N_2 10n
BOpAmp1 _N_3 0 V=5 < 1000*(v(0,0) - v(_N_2,0)) ? 5 : 1000*(v(0,0) - v(_N_2,0)) < 0 ? 0 : 1000*(v(0,0) - v(_N_2,0))
BOpAmp2 _N_5 0 V=5 < 1000*(v(0,0) - v(_N_6,0)) ? 5 : 1000*(v(0,0) - v(_N_6,0)) < 0 ? 0 : 1000*(v(0,0) - v(_N_6,0))
VVPul1 _N_8 0  EXP(500 0 0 0 0 0.01) AC 0 0
BOpAmp3 _N_7 0 V=5 < 1000*(v(0,0) - v(_N_9,0)) ? 5 : 1000*(v(0,0) - v(_N_9,0)) < 0 ? 0 : 1000*(v(0,0) - v(_N_9,0))
RR1 _N_7 _N_2 10
RR15 _N_2 _N_3 1000k
RR16 _N_6 _N_5 1k
RR2 _N_4 _N_3 998
RR3 _N_4 0 2
RR4 _N_4 _N_6 1k
RR5 _N_9 _N_5 1k
RR6 _N_9 _N_8 1k
RR7 _N_7 _N_9 1k



 .tran 0.0001 0.05 0.001 0.0001
* VIEW RESULTS
.control
run
*plot V(_N_8)



wrdata plot.dat V(_N_8)
.endc
.end


